US08471005B2
1-(3-Chloro-4-nitro-phenyl)-4-methyl-piperazine (2.016 g, 7.885 mmol) was combined with Tetrahydrofuran (30 mL). The resulting mixture was filtered. The filtrate was combined with Acetic acid (40 mL, 700 mmol), then at room temperature Iron (2932 mg, 52.50 mmol) was added neat and the mixture was warmed to 35° C. under a nitrogen atmosphere. After 16 h filtered mixture and concentrated resulting filtrate under reduced pressure. The concentrated residue was partitioned between CHCl3 (2×) and saturated aqueous NaHCO3. Combined organics, dried over Na2SO4, filtered, and concentrated under reduced pressure to yield 0.44 g (25%) of 2-Chloro-4-(4-methyl-piperazin-1-yl)-phenylamine as a yellow tinted oil, which crystallized on sitting. This material was used without further manipulation for the subsequent step. LC/MS (E/I+) 226.05 (M+H).

reactant | 1-(3-Chloro-4-nitro-phenyl)-4-methyl-piperazine | 7.885 mmol, 2.016 g | ClC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C | C11H14ClN3O2
reactant | Acetic acid | 700 mmol, 40 mL | C(C)(=O)O | C2H4O2
catalyst | Iron | 52.50 mmol, 2932 mg | [Fe] | Fe
solvent | Tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-Chloro-4-(4-methyl-piperazin-1-yl)-phenylamine | 0.44 g, 25% | ClC1=C(C=CC(=C1)N1CCN(CC1)C)N | C11H16ClN3
